US06087380
1-Methyl-2-[N-(4-amidinophenyl)-N-methyl-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(ethoxycarbonylmethyl)-amide-hydrochloride
Prepared analogously to Example 25d from 1-methyl-2-[N-(4-cyanophenyl)-N-methyl-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(ethoxycarbonylmethyl)-amide and ethanolic hydrochloric acid, ethanol and ammonium carbonate. Yield: 54% of theory, C27H29N7O3 (499.6) ##EQU49##

reactant | 1-methyl-2-[N-(4-cyanophenyl)-N-methyl-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(ethoxycarbonylmethyl)-amide | N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CN(C)C2=CC=C(C=C2)C#N)C)C=C1)CC(=O)OCC | C27H26N6O3
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | ethanol | C(C)O | C2H6O
product | 1-Methyl-2-[N-(4-amidinophenyl)-N-methyl-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(ethoxycarbonylmethyl)-amide-hydrochloride | Yield: 54% | Cl.N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CN(C)C2=CC=C(C=C2)C(N)=N)C)C=C1)CC(=O)OCC | InChI=1S/C27H29N7O3.ClH/c1-4-37-25(35)17-34(23-7-5-6-14-30-23)27(36)19-10-13-22-21(15-19)31-24(33(22)3)16-32(2)20-11-8-18(9-12-20)26(28)29;/h5-15H,4,16-17H2,1-3H3,(H3,28,29);1H
